US08685980B2
To a solution of 7-cyclopentyl-2-(5-piperazin-1-yl-pyridin-2-ylamino)-7H-pyrrolo[2,3-d]pyrimidine-6-carboxylic acid dimethylamide (55 mg, 0.123 mmol) and (R)-2-methyl-oxirane (250 mg, 4.3 mmol) in 5 mL of ethanol is heated at 70° C. for 18 h. Following SiO2 chromatography, eluting with 0-10% (2M NH3 in MeOH)/dichloromethane] gave 7-cyclopentyl-2-{5-[4-((R)-2-hydroxy-propyl)-piperazin-1-yl]-pyridin-2-ylamino}-7H-pyrrolo[2,3-d]pyrimidine-6-carboxylic acid dimethylamide (10 mg, 16%). MS (ESI) m/z 493.3 (M+H)+

reactant | 7-cyclopentyl-2-(5-piperazin-1-yl-pyridin-2-ylamino)-7H-pyrrolo[2,3-d]pyrimidine-6-carboxylic acid dimethylamide | 0.123 mmol, 55 mg | CN(C(=O)C1=CC2=C(N=C(N=C2)NC2=NC=C(C=C2)N2CCNCC2)N1C1CCCC1)C | C23H30N8O
reactant | (R)-2-methyl-oxirane | 4.3 mmol, 250 mg | C[C@H]1OC1 | C3H6O
solvent | ethanol | 5 mL | C(C)O | C2H6O
product | 7-cyclopentyl-2-{5-[4-((R)-2-hydroxy-propyl)-piperazin-1-yl]-pyridin-2-ylamino}-7H-pyrrolo[2,3-d]pyrimidine-6-carboxylic acid dimethylamide | 10 mg, 16% | CN(C(=O)C1=CC2=C(N=C(N=C2)NC2=NC=C(C=C2)N2CCN(CC2)C[C@@H](C)O)N1C1CCCC1)C | C26H36N8O2
